US07767675B2
Step 6. chloro(1-quinolin-6-ylcyclopropyl)acetaldehyde
To a mixture of (1-quinolin-6-ylcyclopropyl)acetaldehyde (410 mg, 1.94 mmol), D-proline (45 mg, 0.39 mmol) in dichloromethane (10 mL) cooled (0° C.) was added N-chlorosuccinimide (311 mg, 2.33 mmol) with stirring. The reaction mixture was stirred at 0° C. for 1 h, then gradually warmed to RT. The reaction mixture was quenched with water, extracted with dichloromethane. The combined organic extracts were concentrated and the residue purified by flash chromatography eluting with ethyl acetate in hexanes (0-25% in 18 min) to afford the desired product. (320 mg, 67.1%) LCMS: (M+H)=246.2; (M+H2O+H)=264.2.

reactant | (1-quinolin-6-ylcyclopropyl)acetaldehyde | 1.94 mmol, 410 mg | N1=CC=CC2=CC(=CC=C12)C1(CC1)CC=O | C14H13NO
reactant | D-proline | 0.39 mmol, 45 mg | N1[C@@H](C(=O)O)CCC1 | C5H9NO2
reactant | N-chlorosuccinimide | 2.33 mmol, 311 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | chloro(1-quinolin-6-ylcyclopropyl)acetaldehyde | ClC(C=O)C1(CC1)C=1C=C2C=CC=NC2=CC1 | C14H12ClNO
